US05962458
Thionyl chloride (0.98 ml, 13.5 mmol) was added slowly to a solution of 4-(2-hydroxyethylthio)pyridine (1.39 g, 9.0 mmol) in trichloromethane (25 ml) at 5° C. The mixture was stirred at 5° C. for 1 hour and then at ambient temperature for 2 hours. The volatiles were removed by evaporation, the residue azeotroped with toluene and dried under vacuum to give 4-(2-chloroethylthio)pyridine hydrochloride (500 mg, 26%) as a solid.

reactant | Thionyl chloride | 13.5 mmol, 0.98 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(2-hydroxyethylthio)pyridine | 9.0 mmol, 1.39 g | OCCSC1=CC=NC=C1 | C7H9NOS
solvent | trichloromethane | 25 ml | ClC(Cl)Cl | CHCl3
product | 4-(2-chloroethylthio)pyridine hydrochloride | 500 mg, 26% | Cl.ClCCSC1=CC=NC=C1 | InChI=1S/C7H8ClNS.ClH/c8-3-6-10-7-1-4-9-5-2-7;/h1-2,4-5H,3,6H2;1H
